US07335649B2
a) 5-(5′-chloro-2′-methoxybiphenyl-3-yl)-1H-tetrazole:
Following the procedure of Example 1b), except substituting 2-methoxy-5-chlorophenylboronic acid; for 4-carboxyphenylboronic acid;, and substituting 5-(3-bromophenyl)-1H-tetrazole for the compound of 1a), the title compound was prepared (1.36 g; 100%) as a white solid. 1H NMR (300 MHz, d6-DMSO) δ 8.16(s, 1H), 8.05(d, J=7.6 Hz, 1H), 7.7(d, J=6.6 Hz, 1H), 7.67(t, J=7.7 Hz, 1H), 7.48(m, 2H), 7.2(d, J=9.1 Hz, 1H), 3.8(s, 3H), MS(ES) m/z 287 [M+H]. b) 5-(5′-chloro-2′-hydroxybiphenyl-3-yl)-1H-tetrazole

reactant | 2-methoxy-5-chlorophenylboronic acid | COC1=C(C=C(C=C1)Cl)B(O)O | C7H8BClO3
reactant | 4-carboxyphenylboronic acid | C(=O)(O)C1=CC=C(C=C1)B(O)O | C7H7BO4
reactant | 5-(3-bromophenyl)-1H-tetrazole | BrC=1C=C(C=CC1)C1=NN=NN1 | C7H5BrN4
product | 5-(5′-chloro-2′-methoxybiphenyl-3-yl)-1H-tetrazole | ClC=1C=CC(=C(C1)C1=CC(=CC=C1)C1=NN=NN1)OC | C14H11ClN4O
